US06787544B2
In 5 mL of acetic anhydride is suspended 0.5 g of 3-hydroxy-2-pyrazinecarboxamide. The resulting solution is stirred at 110° C. for 1 hour. The deposited crystals are collected by filtration to obtain 0.5 g of N2-acetyl-3-hydroxy-2-pyrazinecarboxamide.

reactant | 3-hydroxy-2-pyrazinecarboxamide | 0.5 g | OC=1C(=NC=CN1)C(=O)N | C5H5N3O2
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N2-acetyl-3-hydroxy-2-pyrazinecarboxamide | 0.5 g | C(C)(=O)NC(=O)C1=NC=CN=C1O | C7H7N3O3
